US07989458B2
To 6-pyridin-3-yl-2-pyridin-2-yl-3H-pyrimidin-4-one (1 eq, 0.26 mmol, 0.035 g) under inert atmosphere, is added dropwise phosphorus oxychloride (15 eq, 3.9 mmol, 0.36 ml) followed by cautious addition of phosphorus pentachloride (1 eq, 0.26 mmol, 0.054 g). After 4 hours at reflux, the reaction mixture is added slowly to ice/water. The pH is adjusted to pH 7 using NaHCO3 and the aqueous portion is extracted with EtOAc. The combined organic extracts are separated, washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product is purified by flash chromatography eluting with 0-100% MeOH in DCM to afford 4-chloro-6-pyridin-3-yl-2-pyridin-2-yl-pyrimidine as a white solid; [M+H]+=269/271.

reactant | 6-pyridin-3-yl-2-pyridin-2-yl-3H-pyrimidin-4-one | 0.26 mmol, 0.035 g, 1 eq | N1=CC(=CC=C1)C1=CC(NC(=N1)C1=NC=CC=C1)=O | C14H10N4O
reactant | phosphorus oxychloride | 3.9 mmol, 0.36 ml, 15 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentachloride | 0.26 mmol, 0.054 g, 1 eq | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-chloro-6-pyridin-3-yl-2-pyridin-2-yl-pyrimidine | ClC1=NC(=NC(=C1)C=1C=NC=CC1)C1=NC=CC=C1 | C14H9ClN4
